US08030489B2
The mixture of methyl 4-(3-methoxy-3-oxopropyl)-3-nitrobenzoate (12 g), THF (180 ml), and palladium-carbon (1.2 g) was stirred at room temperature for 4 days under a hydrogen atmosphere. The insolubles of the reaction mixture were separated by filtration through Celite and the filtrate was concentrated under reduced pressure. To the residue were added methanol (100 ml) and p-toluenesulfonic acid monohydrate (0.10 g), followed by heating under reflux for 1 hour, and then allowing to be cooled at room temperature. The reaction mixture was concentrated under reduced pressure. To the residue was added chloroform, followed by washing with a saturated sodium bicarbonate solution and drying over anhydrous magnesium sulfate. The solvent was removed by evaporation under reduced pressure. The residue was washed with methanol to obtain methyl 2-oxo-1,2,3,4-tetrahydroquinoline-7-carboxylate (7.0 g).

reactant | methyl 4-(3-methoxy-3-oxopropyl)-3-nitrobenzoate | 12 g | COC(CCC1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-])=O | C12H13NO6
catalyst | palladium-carbon | 1.2 g | [C].[Pd]
solvent | THF | 180 ml | C1CCOC1 | C4H8O
product | methyl 2-oxo-1,2,3,4-tetrahydroquinoline-7-carboxylate | 7.0 g | O=C1NC2=CC(=CC=C2CC1)C(=O)OC | C11H11NO3
